* C:\Users\asad1\OneDrive\Documentos\GitHub\STM32-G061F6P6-Learning\Electronics_simulations and circuits\3V3 power from USB A to USBC breakout.asc
XU2 N005 N003 N002 LT1117
V§USB N004 0 5V
R3 N003 N005 330
C2 N005 0 10n
C4 N003 0 220µ V=16 Irms=540m Rser=0.24 Lser=4.5n mfg="Würth Elektronik" pn="860160374017 WCAP-ATLL 8x11,5" type="Al electrolytic"
I§load_or_microcontrollers_power_consumption N003 0 PULSE(10m 1000m 0 2 2 0 2 3)
R1 N005 P001 507
R2 P001 0 22
D1 N004 N002 1N5819
C1 N002 0 220µ V=16 Irms=540m Rser=0.24 Lser=4.5n mfg="Würth Elektronik" pn="860160374017 WCAP-ATLL 8x11,5" type="Al electrolytic"
.model D D
.lib C:\Users\asad1\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2
* For simulation
* 3.3V
.lib LT1117.lib
.backanno
.end
